US07645910B2
Preparation of [3-(1-adamantyl)-4-methoxyphenyl]-5,5-dimethyl-1,3,2-dioxaborinane
A solution of 2,4,6-tris[3-(1-adamantyl)-4-methoxyphenyl]-1,3,5,2,4,6-trioxatriborinane (1 g, 3.73 mmol) and 2,2-dimethyl-propane-1,3-diol (388 mg, 3.73 mmol) in toluene (10 ml) was heated at reflux, having the system Dean-Stark, and under inert atmosphere during 6 h. The toluene was evaporated at reduced pressure and cyclohexane (2 ml) was added. After heating the solution at reflux for 10 minutes, this was cooled at room temperature and the title product was obtained after filtration (904 mg, 68%) as a white solid, which was used in the following Suzuki couplings without previous purification. IR (KBr) 3217, 2958, 2900, 1596, 1477, 1416, 1377, 1310, 1283, 1233, 1177, 1136, 1100, 1032, 990, 816, 694, 676 y 633. M/Z (Electrospray) 355 (M+).

reactant | 2,4,6-tris[3-(1-adamantyl)-4-methoxyphenyl]-1,3,5,2,4,6-trioxatriborinane | 3.73 mmol, 1 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)B2OB(OB(O2)C2=CC(=C(C=C2)OC)C23CC1CC(CC(C2)C1)C3)C3=CC(=C(C=C3)OC)C31CC2CC(CC(C3)C2)C1 | C51H63B3O6
reactant | 2,2-dimethyl-propane-1,3-diol | 3.73 mmol, 388 mg | CC(CO)(CO)C | C5H12O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [3-(1-adamantyl)-4-methoxyphenyl]-5,5-dimethyl-1,3,2-dioxaborinane | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)B2OCC(CO2)(C)C | C22H31BO3
